US07101886B2
2-[3-(4-1,2-BENZISOTHIAZOL-3-YL-PIPERAZIN-1-YL)-PROPYL]-PHENYLAMINE
3-{4-[3-(2-Nitro-phenyl)-propyl]-piperazin-1-yl}-1,2-benzoisothiazole (3.25 g, 8.5 mmol) was dissolved in 100 mL of THF treated with triethylamine (0.3 ml) and with wet Raney nickel (1.02 g). The resulting mixture was placed on a shaker type hydrogenator, purged with hydrogen, pressurized (29.8 psig) and shaken at room temperature for 16 hours. The resulting mixture was filtered to remove the catalyst then filtered a second time over celite before the filtrate was concentrated. The resultant solid was dried in vacuo (2.33 g, 6.61 mmol). Yield 78%; MS (APCI): 352 [M+H]+.

reactant | 3-{4-[3-(2-Nitro-phenyl)-propyl]-piperazin-1-yl}-1,2-benzoisothiazole | 8.5 mmol, 3.25 g | [N+](=O)([O-])C1=C(C=CC=C1)CCCN1CCN(CC1)C1=NSC2=C1C=CC=C2 | C20H22N4O2S
reactant | triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | Raney nickel | 1.02 g | [Ni] | Ni
product | 2-[3-(4-1,2-BENZISOTHIAZOL-3-YL-PIPERAZIN-1-YL)-PROPYL]-PHENYLAMINE | Yield 78% | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCCC2=C(C=CC=C2)N | C20H24N4S
